Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C@:9]1([H:10])[C:11]([H:12])([H:13])[H:14],-0.74473300133
[H:1][O:2][C:3]([H:4])=[C:13]([H:14])[H:15].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15],-1.02103662542
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1].[O:2][C@@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],4.547744213730001
[O:1]=[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[C:2]([H:5])=[C:6]([H:7])[H:8].[O:1]=[C:4]=[O:3],-0.18701422473
[O:1]=[C:2]([H:3])[C:4]([O:5][C:6][H:7])=[C:8]([H:9])[H:10]>>[C:4]([O:5][C:6][H:7])=[C:8]([H:9])[H:10].[O:1]=[C:2][H:3],4.32992553258
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7][H:8]>>[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-4.58592774455
[C:5]([H:6])#[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],1.44181969778
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[C:9]#[C:10][H:11].[H:8]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-3.73317907944
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9],-1.59718649729
[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.62343946245
[C:7]([H:8])([H:9])[H:10].[H:1][C:2][O:3][C:4]#[C:5][H:6]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10],-2.05169775159
[C:6]#[C:7][H:8].[O:1][O:2][C:3]#[C:4][H:5]>>[O:1][O:2][C:3][C:4]([H:5])[C:6]#[C:7][H:8],-4.21427650028
[C:1]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[C:2]#[C:3]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-8.004764208160001
[C:1]=[C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.796159035829
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13],-0.883023234971
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.40741269244
[C:3]([H:4])(=[C:5]([H:6])[H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-2.55010526278
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])[H:11]>>[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7].[O:8]=[C:9]([H:10])[H:11],-1.27141664475
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:9]/[O:10][C:11]([H:12])[H:13].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])[H:13],-2.67608351383
[C:1]#[C:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:5]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-2.39706508982
[C:5]([H:6])#[C:7][O:8][C:9]([H:10])[H:11].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][C:9]([H:10])[H:11],0.108963017521
[H:1][C:2][O:3][C:4]=[C:5]1[C:6]([H:7])=[C:8]1[H:9]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])=[C:8][H:9],-0.2045682744
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:1]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[C:2]#[C:3],8.01772469796
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1]#[C:2].[C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],5.315087080630001
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9]>>[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9],5.50387932586
[C:1][C:2]#[C:3][C:4]([H:5])[O:6][O:7][H:8]>>[C:1].[C:2]#[C:3][C:4]([H:5])[O:6][O:7][H:8],5.83313904995
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7][C:8]([H:9])([H:10])[H:11],4.1561136306
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13].[O:1]=[C:2][H:3],3.74810669781
[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-5.968391056869999
[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9].[H:10]>>[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10],-3.96151557575
